US05359098
7-[4-(4-hydroxypiperidinyl)butoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 1 from 7-hydroxyflavone, 1-bromo-4-chlorobutane, and 4-hydroxypiperidine: mp 207°-209° C.

reactant | 7-hydroxyflavone | OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 7-[4-(4-hydroxypiperidinyl)butoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCCOC1=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C=C1 | InChI=1S/C24H27NO4.ClH/c26-19-10-13-25(14-11-19)12-4-5-15-28-20-8-9-21-22(27)17-23(29-24(21)16-20)18-6-2-1-3-7-18;/h1-3,6-9,16-17,19,26H,4-5,10-15H2;1H
